US04348399
4-(Hexadecylamino)phenylpropiolamide
A solution of 4-hexadecylaminophenylpropiolic acid is converted to 4-hexadecylaminophenylpropiolic acid chloride hydrochloride as described in Example 18. After evaporation of the solvent, the unpurified acid chloride is slurried in methylene chloride and treated with anhydrous ammonia as in Example 31. Workup as described therein provides the title compound. Likewise, 4-(hexadecylamino)cinnamamide is prepared from 4-(hexadecylamino)cinnamic acid.

reactant | 4-hexadecylaminophenylpropiolic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)C#CC(=O)O | C25H39NO2
reactant | 4-hexadecylaminophenylpropiolic acid chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)C#CC(=O)Cl
product | 4-(Hexadecylamino)phenylpropiolamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)C#CC(=O)N | C25H40N2O
